datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([Sn:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>C1=CC=C([Sn:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH+:11][CH2:10][Cl:20])C=C1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10,11=10,20;20,21=21,22;22,23=23"
"C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F.[N-:10]=[N+:61]=[N-:62]>>C[N-:21]C1=CC=CC=C1.FC(F)(F)[S:20][N:10]=[N+:61]=[N-:62] 10=20;20,21=21"
"COC1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.C[C:20]1=[CH:21][C:22](=[O:23])CCC1>>COC1=CC=C(C[C:10]2([C:20]3(C)CCC[C:22]([O-:23])=[CH:21]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20;20,21=21,22;22,23=23"
"CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1>>CC[O:92][C:61]([C:10](OC)([CH:20]([CH:21]=[C:22](C1=[N+](C2=CC=C(OC)C=C2)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"CC1=C[C:61]2=[C:62](C=C1C)[NH:12][CH:11]=[N:10]2.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1=C[C:61]2=[C:62](C=C1C)[NH+:12]=[CH:11][N:10]2[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.C[N:82]1[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84]>>CC1=CC(C)=C(C(C)C[CH:20]([C:10]2([I+:11]C3=CC=CC=C3)[C:71](=[O:72])[N:82](C)[C:83](=[O:84])[N:102](C)[C:91]2=[O:92])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10,11=10,20"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].COC1=CC=CC(OC)=C1[P:10](C1=C(OC)C=CC=C1OC)C1=C(OC)C=CC=C1OC>>CC[O:50][C:22](=[CH:21][CH:20]([P+:10](C1=C(OC)C=CC=C1OC)(C1=C(OC)C=CC=C1OC)C1=C(OC)C=CC=C1OC)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH:20]([N+:10]2=[CH:61][CH:62]=[C:63](C)[CH:72]=[CH:71]2)[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:62]3C4=C(C=CC=C4)[S:72][C:61]3=[N:10]2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[C:61]3[N:62](CC[C@H]2C(C2=CC=CC=C2)C2=CC=CC=C2)C2=C(C=CC=C2)[S:72]3)[O:21]C)[CH:35]=[CH:36]1 10=20;20,21=21"
"C1C[NH:10]CCO1.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2CCOCC2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
COC1=CC=C([P:10](C2=CC=C(OC)C=C2)C2=CC=C(OC)C=C2)C=C1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>COC1=CC=C([P+:10](C2=CC=C(OC)C=C2)(C2=CC=C(OC)C=C2)[CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)C=C1 10=20
C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.C1=CC=C([S:61]([CH-:10][C:81]2=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:96])[CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1>>C1=CC=C([C:20]2([CH:10]([S:61](C3=CC=CC=C3)(=[O:62])=[O:72])[C:81]3=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:96])[CH:93]=[CH:92]3)[S:31]CCC[S:41]2)C=C1 10=20
"C[Si:11](C)([H:10])[CH2:62][Ge:63](C)(C)C.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>C[Si+:11](C)[CH2:62][Ge:63](C)(C)C.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1.[H:10][Cl:20] 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)CCC[NH:10]1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>CC1(C)CCC[NH+:10]1[CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1 10=20;20,21=21"
"C1=CC=C(C[N+:61]#[C-:10])C=C1.C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>C1=CC=C(C[N+:61]#[C:10][F:20])C=C1.C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[Si:63]1(C)C[CH:11]([H:10])[CH2:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([H:10])[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[Si:63]1(C)C[CH+:11][CH2:62]1 10,11=10,20"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=CC=C2)[C:72](=[O:73])[O:83]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=CC=C2)([S:20]C(F)(F)F)[C:72](=[O:73])[O:83]1 10=20;20,21=21,22;22,23=23"
